US08106070B2
Benzyl chloroformate (8.65 mL, 61.5 mmol) was added to a refluxing solution of 4-bromo-dl-phenylalanine (15 g, 61.5 mmol) in ethyl acetate (250 mL). After stirring at reflux overnight, the reaction mixture was cooled to ambient temperature, filtered through celite and concentrated in vacuo to afford 2-{[(benzyloxy)carbonyl]amino}-3-(4-bromophenyl)propanoic acid which was used in the subsequent step without further purification.

reactant | Benzyl chloroformate | 61.5 mmol, 8.65 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 4-bromo-dl-phenylalanine | 61.5 mmol, 15 g | BrC1=CC=C(CC(N)C(=O)O)C=C1 | C9H10BrNO2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-{[(benzyloxy)carbonyl]amino}-3-(4-bromophenyl)propanoic acid | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)Br | C17H16BrNO4
